US07071350B2
The concentrations of the substrates prior to entering the reactor were 0.226 M for ethyl 3-hydroxy-n-butyrate and 1.630 M for aqueous ammonia. The reaction time was 0.201 second, and the aqueous solution obtained after the reaction was examined with a high performance liquid chromatography/mass spectroscopy apparatus, which confirmed that an amino group had been introduced into the ethyl 3-hydroxy-n-butyrate, and that ethyl 3-amino-n-butyrate had been produced. The ethyl 3-amino-n-butyrate concentration was 3.3 mM, and the reaction yield thereof was 1.5%.

reactant | ethyl 3-hydroxy-n-butyrate | OC(CC(=O)OCC)C | C6H12O3
reactant | ammonia | N | H3N
product | ethyl 3-amino-n-butyrate | NC(CC(=O)OCC)C | C6H13NO2
